US06953790B2
Step A. tert-Butyl 4-(4-oxido-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate
2-Oxo-1-(1-t-butoxycarbonylpiperidin-4-yl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine (63 mg, 0.198 mmol) was dissolved in 1,2-dichloroethane (10 mL) and 3-chloroperoxybenzoic acid (137 mg, 0.792 mmol) was added at 0° C. The reaction was warmed to room temperature and stirred for 4 h. The reaction was quenched with saturated aqueous sodium bicarbonate and sodium thiosulfate, extracted with methylene chloride (3×), dried over sodium sulfate, filtered and evaporated to give the title compound (45 mg). MS 335.1 (M+1).

reactant | 2-Oxo-1-(1-t-butoxycarbonylpiperidin-4-yl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine | 0.198 mmol, 63 mg | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H22N4O3
reactant | 3-chloroperoxybenzoic acid | 0.792 mmol, 137 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | tert-Butyl 4-(4-oxido-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 45 mg | [O-][N+]1=C2C(=CC=C1)N(C(N2)=O)C2CCN(CC2)C(=O)OC(C)(C)C | C16H22N4O4
